Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.33190084809
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3],3.59567464747
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]#[C:11][C:12]([H:13])([H:14])[H:15].[H:6],1.98594342425
[H:10].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10],-3.23578297043
[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7].[O:8][H:9]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-6.08146475544
[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-3.47433422847
[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:3].[O:1]=[C:2][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],4.549190911509999
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]=[C:9]([H:10])[H:11]>>[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[O:7],0.18822499993
[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2][H:3],4.10132346334
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.0880475616800025
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[H:12]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.370406097669997
[C:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7][H:8]>>[C:1][O:2][C:3]([H:4])[C:5]#[C:7][H:8].[H:6],1.58234317355
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],2.06406862597
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14][H:15].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14][H:15],-3.64719152767
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]=[C:13]([H:14])[H:15],4.4476339793
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],1.46186988667
[O:1][C:4](=[O:3])[C:7]([C:2]#[C:5][H:6])([H:8])[H:9]>>[O:1]=[C:2]1[O:3][C:4](=[C:5][H:6])[C:7]1([H:8])[H:9],-0.324901664029
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],5.1092981666
[C:14]([H:15])[H:16].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-5.17237683
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[H:8].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-1.7036007192700002
[C:5]([H:6])#[C:7][O:8][H:9].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[O:8][H:9],0.0599811859110999
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],5.03051806372
[C:1]#[C:2][O:3][C:4][C:5]([H:6])[H:7]>>[C:1][C:2][O:3].[C:4]=[C:5]([H:6])[H:7],0.64261918506
[H:4].[O:1][C:2]#[C:3][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.7087119659400005
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2],5.1052386027
[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3].[O:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],1.0677226841
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][H:8]>>[C:4]([H:5])([H:6])[O:7][H:8].[O:1]=[C:2][H:3],3.44781501323
[C:8]([H:9])[H:10].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-5.275634153
[H:1].[O:2]=[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],-1.87367444585
